US05929117
3,4-Dimethoxy-4'-phenylbenzophenone was prepared analogously to 3,4,3',4'-tetramethoxybenzophenone using veratrole (2.4 g, 17 mmol), aluminum chloride (2.5 g, 19 mmol) and 4-biphenylcarbonyl chloride (4 g, 18 mmol) with a reaction time of 24 hours at room temperature. The crude product was purified by flash column chromatography (silica gel, 2% ethyl acetate/methylene chloride) to afford 3.86 g (70%) of the product as a white solid: mp 103-104° C.; 1H NMR (CDCl3) δ 7.88-7.84 (m, 2H), 7.73-7.64 (m, 4H), 7.52-7.40 (m, 5H), 6.93-6.90 (m, 1H), 3.97 (s, 3H), 3.96 (s, 3H); 13C NMR (CDCl3) δ 194.9, 152.9, 148.9, 144.5, 139.8, 136.8, 130.2, 130.2, 128.8, 127.9, 127.1, 126.7, 125.2, 112.0, 109.7, 55.9, 55.9; Anal. Calcd for C21H18O3. Theoretical: C, 79.23; H, 5.70. Found: C, 78.91; H, 5.87.

reactant | 3,4,3',4'-tetramethoxybenzophenone | COC=1C=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=CC1OC | C17H18O5
reactant | veratrole | 17 mmol, 2.4 g | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | aluminum chloride | 19 mmol, 2.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-biphenylcarbonyl chloride | 18 mmol, 4 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | 3,4-Dimethoxy-4'-phenylbenzophenone | COC=1C=C(C(=O)C2=CC=C(C=C2)C2=CC=CC=C2)C=CC1OC | C21H18O3
